US07030139B2
26D: Methyl-1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazol-5-ylcarbamate.
Following general procedure 13B: Methyl 3-amino-4-[(cyclopropylmethyl)amino]-phenylcarbamate (4.0 g, 17.0 mmol), DIPEA (5 mL), 4-ethoxyphenylacetic acid (3.06 g, 17.0 mmol) and HATU (7.10 g, 18.7 mmol) were combined. The desired product (3.34 g, 52%) precipitated out of the reaction mixture. 1HNMR (CDCl3): δ 7.65 (d, J=2.0 Hz, 1H), 7.37 (br., 1H), 7.26 (d, J=4 Hz), 7.12 (d, J=9.0 Hz, 2H), 6.81 (d, J=9.0 Hz, 2H), 6.74 (br., 1H), 4.25 (s, 2H), 3.98 (q, J=7.4 Hz, 2H), 3.87 (d, J=7.2 Hz, 2H), 3.79 (s, 3H), 1.38 (t, J=7.4 Hz, 3H), 1.05–0.97 (m, 1H), 0.52–0.47 (m, 2H), 0.25–0.20 (m, 2H). MS (ESI) (M+H)+=380.

reactant | Methyl 3-amino-4-[(cyclopropylmethyl)amino]-phenylcarbamate | 17.0 mmol, 4.0 g | NC=1C=C(C=CC1NCC1CC1)NC(OC)=O | C12H17N3O2
reactant | DIPEA | 5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-ethoxyphenylacetic acid | 17.0 mmol, 3.06 g | C(C)OC1=CC=C(C=C1)CC(=O)O | C10H12O3
reactant | HATU | 18.7 mmol, 7.10 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | Methyl-1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazol-5-ylcarbamate | COC(NC1=CC2=C(N(C(=N2)CC2=CC=C(C=C2)OCC)CC2CC2)C=C1)=O | C22H25N3O3
